US20010011096A1
2.76 g (10 mmol) of 4-(4-trifluoromethylphenyl)-1-indanone are dissolved in 20 ml of glacial acetic acid and, after addition of 10 μl of a 48% strength solution of HBr in glacial acetic acid, while stirring a solution of 0.516 ml (10.05 mmol) of bromine in glacial acetic acid is added. After 3 h at room temperature, the reaction mixture is poured into a mixture of 100 ml of water with 100 g of ice and 100 mg of sodium bisulfite, and the resulting suspension is shaken with dichloromethane. The organic phase is washed 3× with water, dried over sodium sulfate, filtered and concentrated in vacuo. The residue is chromatographed on silica gel with dichloromethane/n-heptane 3/1. 2-Bromo-4-(4-trifluoromethylphenyl)-1-indanone is obtained with a melting point of 102-105° C., in addition to a little 2,2-dibromo compound.

reactant | 4-(4-trifluoromethylphenyl)-1-indanone | 10 mmol, 2.76 g | FC(C1=CC=C(C=C1)C1=C2CCC(C2=CC=C1)=O)(F)F | C16H11F3O
reactant | HBr | Br | BrH
reactant | bromine | 10.05 mmol, 0.516 ml | BrBr | Br2
reactant | sodium bisulfite | 100 mg | S([O-])(O)=O.[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | 2-Bromo-4-(4-trifluoromethylphenyl)-1-indanone | BrC1C(C2=CC=CC(=C2C1)C1=CC=C(C=C1)C(F)(F)F)=O | C16H10BrF3O
